US06455528B1
(2) N-[(4-Acetylphenyl)methyl]acetamide
To a suspension of aluminum chloride (22.3 g) in dichloroethane (40 ml) was added acetylchloride (7.1 ml). Thereto was added a solution of N-phenylmethylacetamide (10 g) in dichloroethane (20 ml) at 10-15° C. over 20 min. This reaction mixture was stirred at room temperature for 6 hr and poured into ice water (100 ml). The mixture was extracted with chloroform (100 ml×3). The chloroform layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a black brown oil (15.5 g). The obtained residue was purified by silica gel column chromatography (developing solvent; chloroform:methanol=20:1) to give the title compound (6.48 g) as a black brown solid.

reactant | aluminum chloride | 22.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 7.1 ml | C(C)(=O)Cl | C2H3ClO
reactant | N-phenylmethylacetamide | 10 g | C1(=CC=CC=C1)CNC(C)=O | C9H11NO
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | N-[(4-Acetylphenyl)methyl]acetamide | 15.5 g | C(C)(=O)C1=CC=C(C=C1)CNC(C)=O | C11H13NO2
